US07241785B2
A mixture of methyl [3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethoxy]-1-phenyl-1H-pyrazol-4-yl]acetate (587 mg), 1N aqueous sodium hydroxide solution (3 ml), tetrahydrofuran (6 ml) and ethanol (6 ml) was stirred at room temperature for 1 hr. 1N Hydrochloric acid (3 ml) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained colorless crystals were collected by filtration to give [3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethoxy]-1-phenyl-1H-pyrazol-4-yl]acetic acid (502 mg, yield 88%), which was then recrystallized from ethanol-hexane. melting point: 164–165° C.

reactant | methyl [3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethoxy]-1-phenyl-1H-pyrazol-4-yl]acetate | 587 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=N1)COC1=NN(C=C1CC(=O)OC)C1=CC=CC=C1 | C29H26N4O5
reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | Hydrochloric acid | 1N, 3 ml | Cl | ClH
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | [3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethoxy]-1-phenyl-1H-pyrazol-4-yl]acetic acid | 502 mg, yield 88% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=N1)COC1=NN(C=C1CC(=O)O)C1=CC=CC=C1 | C28H24N4O5
